### PR TITLE
[Add] Properties for DCPOs in `Relation.Binary.Properties.Domain`

### PR DESCRIPTION
**Pull request by jmougeot**
This pull request introduces new modules and properties for directed complete partial orders (DCPOs) in the Agda standard library. These additions are adapted from the 1Lab library.

The first part of this pull request is available at [ [Add] Initial files for Domain theory #2721 ](https://github.com/agda/agda-stdlib/pull/2721).
Please comment only on the `src/Relation/Binary/Properties/Domain.agda` file here 

# Key Changes:

### 1. Properties of Least Upper Bounds:
- Added `uniqueLub:` Proves the uniqueness of least upper bounds.
- Added `IsLub-cong`: Demonstrates congruence of least upper bounds under equivalence.

### 2. Scott Continuity and Monotonicity:
- Added `DirectedCompletePartialOrder+scott→monotone`: Proves that Scott continuous functions are monotone.
- Added monotone∘directed: Shows that monotone functions preserve directed families.

### 3. Scott Continuous Functions:

- Added `ScottId`: Identity function as a Scott continuous function.
- Added `scott-∘`: Composition of Scott continuous functions.

### 4. Suprema and Pointwise Ordering:
- Added `⋃-pointwise` : Proves pointwise ordering of suprema in directed families.

### 5. Scott Continuity Module:
- Added `pres-⋁` : Proves preservation of least upper bounds under Scott continuous functions.

### 6. Conversion to Scott Continuity:
-Added `to-scott`: Converts monotone functions with preservation of least upper bounds into Scott continuous functions.

# Source : 
1Lab library

### CODE REVIEW

File: src/Relation/Binary/Properties/Domain.agda [hunk 1]
```diff
@@ -0,0 +1,207 @@
...
+  IsLub-cong x y x≈y x-lub = record
+    { isLeastUpperBound = (λ i → D.trans (IsLub.isUpperBound x-lub i) (D.reflexive x≈y)) ,
+                          (λ z ub → D.trans (D.reflexive (D.Eq.sym x≈y))
+                          (IsLub.isLeast x-lub z (λ i → D.trans (ub i) (D.reflexive D.Eq.refl))))
+    }
+
+------------------------------------------------------------------------
+-- Scott continuity and monotonicity
+
+module _ {c₁ ℓ₁₁ ℓ₁₂ c₂ ℓ₂₁ ℓ₂₂ : Level} {P : Poset c₁ ℓ₁₁ ℓ₁₂} {Q : Poset c₂ ℓ₂₁ ℓ₂₂} where
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: You should declare the `Level` variables you need above, and then use them here.

File: src/Relation/Binary/Properties/Domain.agda [hunk 2]
```diff
@@ -0,0 +1,207 @@
...
+  private
+    module P = Poset P
+    module Q = Poset Q
+
+  DirectedCompletePartialOrder+scott→monotone : (P-DirectedCompletePartialOrder : IsDirectedCompletePartialOrder P)
+    → (f : P.Carrier → Q.Carrier)
+    → (scott : IsScottContinuous P Q f)
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: I think `isCts` would be a more meaningful short name for this.

File: src/Relation/Binary/Properties/Domain.agda [hunk 3]
```diff
@@ -0,0 +1,207 @@
...
+    → IsOrderHomomorphism (Poset._≈_ P) (Poset._≈_ Q) (Poset._≤_ P) (Poset._≤_ Q) f
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: As you have modules `P` and `Q` above, use the shorter names in the signature, i.e. `P._≈_` instead of `Poset._≈_ P` and so forth.

File: src/Relation/Binary/Properties/Domain.agda [hunk 4]
```diff
@@ -0,0 +1,207 @@
...
+  DirectedCompletePartialOrder+scott→monotone P-DirectedCompletePartialOrder f scott = record
+    { cong = λ {x} {y} x≈y → IsScottContinuous.preserveEquality scott x≈y
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: Don't name implicits that you do not use. Try to eta-reduce too.

File: src/Relation/Binary/Properties/Domain.agda [hunk 5]
```diff
@@ -0,0 +1,207 @@
...
+    ; mono = λ {x} {y} x≤y → mono-proof x y x≤y
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: See if you can get away with `_` for `x` and `y` in the rhs. If so, then make them implicit in the proof below. Otherwise leave a comment about not being able to do that.

File: src/Relation/Binary/Properties/Domain.agda [hunk 6]
```diff
@@ -0,0 +1,207 @@
...
+        let (k , s[i]≤s[k] , s[j]≤s[k]) = IsDirectedFamily.isSemidirected dir i j
+        in k , IsOrderHomomorphism.mono ismonotone s[i]≤s[k] , IsOrderHomomorphism.mono ismonotone s[j]≤s[k]
+    }
+
+------------------------------------------------------------------------
+-- Scott continuous functions
+
+ScottId : ∀ {c ℓ₁ ℓ₂} {P : Poset c ℓ₁ ℓ₂} → IsScottContinuous P P id
+ScottId = record
+  { preserveLub = λ dir lub z → z
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: `λ _ _ z → z`

File: src/Relation/Binary/Properties/Domain.agda [hunk 7]
```diff
@@ -0,0 +1,207 @@
...
+  ; preserveEquality = λ z → z }
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: `id`

File: src/Relation/Binary/Properties/Domain.agda [hunk 8]
```diff
@@ -0,0 +1,207 @@
...
+  → (f : Poset.Carrier R → Poset.Carrier Q) (g : Poset.Carrier P → Poset.Carrier R)
+  → IsScottContinuous R Q f → IsScottContinuous P R g
+  → IsOrderHomomorphism (Poset._≈_ P) (Poset._≈_ R) (Poset._≤_ P) (Poset._≤_ R) g
+  → IsScottContinuous P Q (f ∘ g)
+scott-∘ f g scottf scottg monog = record
+  { preserveLub = λ dir lub z → f.preserveLub
+      (monotone∘directed g monog dir)
+      (g lub)
+      (g.preserveLub dir lub z)
+  ; preserveEquality = λ {x} {y} z →
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: remove useless implicits

File: src/Relation/Binary/Properties/Domain.agda [hunk 9]
```diff
@@ -0,0 +1,207 @@
...
+  private
+    module D = DirectedCompletePartialOrder D
+
+  open import Relation.Binary.Reasoning.PartialOrder D.poset
+
+  ⋃-pointwise : ∀ {Ix} {s s' : Ix → D.Carrier}
+    → {fam : IsDirectedFamily D.poset s} {fam' : IsDirectedFamily D.poset s'}
+    → (∀ ix → s ix D.≤ s' ix)
+    → D.⋁ s fam D.≤ D.⋁ s' fam'
+  ⋃-pointwise {s = s} {s'} {fam} {fam'} p =
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: You don't need `s`, why name it? Start with `s'`.

File: src/Relation/Binary/Properties/Domain.agda [hunk 10]
```diff
@@ -0,0 +1,207 @@
...
+    D.⋁-least (D.⋁ s' fam') λ i → D.trans (p i) (D.⋁-≤ i)
+
+------------------------------------------------------------------------
+-- Scott continuity module
+
+module Scott
+  {c ℓ₁ ℓ₂}
+  {P : Poset c ℓ₁ ℓ₂}
+  {D E : DirectedCompletePartialOrder c ℓ₁ ℓ₂}
+  (let module D = DirectedCompletePartialOrder D)
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: I would split the `Scott` module here, define the `D` and `E` there, then use an anonymous module for the rest of the parameters.

You may as well also define `module DP = Poset D.poset` and `module EP = Poset E.poset` at the same time, to make things shorter below.

File: src/Relation/Binary/Properties/Domain.agda [hunk 11]
```diff
@@ -0,0 +1,207 @@
...
+    { preserveLub = λ {_} {s} dir lub x →
+      IsLub-cong E (f (D.⋁ _ dir)) (f lub)
+        (f.cong (uniqueLub D (D.⋁ s dir) lub (D.⋁-isLub s dir) x))
+        (pres-⋁ s dir)
+    ; preserveEquality = f.cong
+    }
+    where module f = IsOrderHomomorphism mono
+
+
+    -- { preserveLub = λ dir lub x → IsLub-cong {!  D !} {!  E !} {!  !} (pres-⋁ {!   !} dir) ;
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: remove dead code.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

File: src/Relation/Binary/Domain/Structures.agda [hunk 12]
```diff
@@ -0,0 +1,79 @@
...
+         (Q : Poset c₂ ℓ₂₁ ℓ₂₂) where
+
+  private
+    module P = Poset P
+    module Q = Poset Q
+
+  record IsScottContinuous (f : P.Carrier → Q.Carrier)
+    : Set (suc (c₁ ⊔ ℓ₁₁ ⊔ ℓ₁₂ ⊔ c₂ ⊔ ℓ₂₁ ⊔ ℓ₂₂)) where
+    field
+      preserveLub : ∀ {B : Set c₁} {g : B → P.Carrier}
```
Comment (JacquesCarette) [inline src/Relation/Binary/Domain/Structures.agda:74]: I don't think this layout is as per the style guide.

File: src/Relation/Binary/Properties/Domain.agda [hunk 13]
```diff
@@ -0,0 +1,172 @@
...
+  uniqueLub : ∀ {s : Ix → D.Carrier} → (x y : D.Carrier) →
+              IsLub D.poset s x → IsLub D.poset s y →  x D.≈ y
+  uniqueLub x y x-lub y-lub = D.antisym
+    (IsLub.isLeast x-lub y (IsLub.isUpperBound y-lub))
+    (IsLub.isLeast y-lub x (IsLub.isUpperBound x-lub))
+
+  IsLub-cong : ∀ {s : Ix → D.Carrier} → {x y : D.Carrier} → x D.≈ y →
+              IsLub D.poset s x → IsLub D.poset s y
+  IsLub-cong x≈y x-lub = record
+    { isLeastUpperBound =
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda:42]: I think this would be clearer if the two parts were defined in a `where` clause

File: src/Relation/Binary/Properties/Domain.agda [hunk 14]
```diff
@@ -0,0 +1,172 @@
...
+
+module _ {P : Poset c₁ ℓ₁₁ ℓ₁₂} {Q : Poset c₂ ℓ₂₁ ℓ₂₂} where
+  private
+    module P = Poset P
+    module Q = Poset Q
+
+  isMonotone : (P-DirectedCompletePartialOrder : IsDirectedCompletePartialOrder P) →
+               (f : P.Carrier → Q.Carrier) → (scott : IsScottContinuous P Q f) →
+               IsOrderHomomorphism P._≈_ Q._≈_ P._≤_ Q._≤_ f
+  isMonotone P-DirectedCompletePartialOrder f scott = record
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: `scott` -> `cts`. It is the fact that it is continuous that is important, not the fact that this is 'Scott' continuity. `isCts` would be fine too.

File: src/Relation/Binary/Properties/Domain.agda [hunk 15]
```diff
@@ -0,0 +1,172 @@
...
+          sx≤sfalse (lift false) = P.refl
+
+          s-directed : IsDirectedFamily P s
+          s-directed = record
+            { elt = lift true
+            ; isSemidirected = λ i j → (lift false , sx≤sfalse i , sx≤sfalse j)
+            }
+
+          s-lub : IsLub P s y
+          s-lub = record { isLeastUpperBound = sx≤sfalse , (λ z proof → proof (lift false))}
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: elide `z` as it is not used.

File: src/Relation/Binary/Properties/Domain.agda [hunk 16]
```diff
@@ -0,0 +1,172 @@
...
+
+          fs-lub : IsLub Q (f ∘ s) (f y)
+          fs-lub = IsScottContinuous.preserveLub scott s-directed y s-lub
+
+  map-directed : {s : Ix → P.Carrier} → (f : P.Carrier → Q.Carrier)→
+                      IsOrderHomomorphism P._≈_ Q._≈_ P._≤_ Q._≤_ f →
+                      IsDirectedFamily P s → IsDirectedFamily Q (f ∘ s)
+  map-directed f ismonotone dir = record
+    { elt = IsDirectedFamily.elt dir
+    ; isSemidirected = λ i j → let (k , s[i]≤s[k] , s[j]≤s[k]) = IsDirectedFamily.isSemidirected dir i j
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: put the rhs of `isSemiDirected` in the `where` clause to improve readability

File: src/Relation/Binary/Properties/Domain.agda [hunk 17]
```diff
@@ -0,0 +1,172 @@
...
+------------------------------------------------------------------------
+-- Scott continuous functions
+
+module _  {P Q R : Poset c ℓ₁ ℓ₂} where
+  private
+    module P = Poset P
+    module Q = Poset Q
+    module R = Poset R
+
+  ScottId : {P : Poset c ℓ₁ ℓ₂} → IsScottContinuous P P id
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda:107]: `id-cts`

File: src/Relation/Binary/Properties/Domain.agda [hunk 18]
```diff
@@ -0,0 +1,172 @@
...
+  ScottId = record
+    { preserveLub = λ _ _ → id
+    ; cong = id }
+
+  scott-cong : (f : R.Carrier  → Q.Carrier) (g : P.Carrier → R.Carrier) →
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: `cts-cong`

File: src/Relation/Binary/Properties/Domain.agda [hunk 19]
```diff
@@ -0,0 +1,172 @@
...
+
+  lub-monotone : {s s' : Ix → D.Carrier} →
+                {fam : IsDirectedFamily DP s} {fam' : IsDirectedFamily DP s'} →
+                (∀ i → s i D.≤ s' i) → D.⋁ s fam D.≤ D.⋁ s' fam'
+  lub-monotone {s' = s'} {fam' = fam'} p = D.⋁-least (D.⋁ s' fam') λ i → D.trans (p i) (D.⋁-≤ i)
+
+------------------------------------------------------------------------
+-- Scott continuity module
+
+module Scott
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: `Scott` -> `ScottContinuity`

File: src/Relation/Binary/Properties/Domain.agda [hunk 20]
```diff
@@ -0,0 +1,172 @@
...
+  (D E : DirectedCompletePartialOrder c ℓ₁ ℓ₂)
+  where
+  private
+    module D = DirectedCompletePartialOrder D
+    module E = DirectedCompletePartialOrder E
+    DP = D.poset
+    EP = E.poset
+
+  module _ (f : D.Carrier → E.Carrier)
+           (isScott : IsScottContinuous DP EP f)
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda:149]: `isScott` -> `isCts`

File: src/Relation/Binary/Properties/Domain.agda [hunk 21]
```diff
@@ -0,0 +1,172 @@
...
+          (E.⋁ (f ∘ s) (map-directed f mono dir))
+          E.⋁-≤
+          )
+        (IsLub.isLeast
+          (E.⋁-isLub (f ∘ s) (map-directed f mono dir))
+          (f (D.⋁ s dir))
+          (λ i → f.mono (D.⋁-≤ i))
+          )
+
+      to-scott : (∀ {Ix} (s : Ix → D.Carrier) (dir : IsDirectedFamily DP s) →
```
Comment (JacquesCarette) [inline src/Relation/Binary/Properties/Domain.agda]: `toScott` -> `isScottContinuous`

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

**Review by JacquesCarette — APPROVED** [review]
This looks good - but depends on a previous PR, so cannot be merged in quite yet.

**Comment by JacquesCarette** [comment]
Could we get another review? @jamesmckinna ? @MatthewDaggitt ?

File: src/Relation/Binary/Domain/Definitions.agda [hunk 22]
```diff
@@ -0,0 +1,38 @@
...
+  variable
+    a b ℓ : Level
+    A B : Set a
+
+------------------------------------------------------------------------
+-- Directed families
+------------------------------------------------------------------------
+
+-- IsSemidirectedFamily : (P : Poset c ℓ₁ ℓ₂) → ∀ {Ix : Set c} → (s : Ix → Poset.Carrier P) → Set _
+-- IsSemidirectedFamily P {Ix} s = ∀ i j → ∃[ k ] (Poset._≤_ P (s i) (s k) × Poset._≤_ P (s j) (s k))
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Definitions.agda:28]: This should either be removed or uncommented?

File: src/Relation/Binary/Domain/Definitions.agda [hunk 23]
```diff
@@ -0,0 +1,38 @@
...
+
+semidirected : {A : Set a} → Rel A ℓ → (B : Set b) → (B → A) → Set _
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Definitions.agda:30]: This implicit `{A}` is already available as a variable? Can `B` not be made implicit as well? It feels like it should be inferable from `B -> A`?

File: src/Relation/Binary/Domain/Definitions.agda [hunk 24]
```diff
@@ -0,0 +1,38 @@
...
+semidirected _≤_ B f = ∀ i j → ∃[ k ] (f i ≤ f k × f j ≤ f k)
+
+------------------------------------------------------------------------
+-- Least upper bounds
+------------------------------------------------------------------------
+
+leastupperbound  : {A : Set a} → Rel A ℓ → (B : Set b) → (B → A) → A → Set _
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Definitions.agda:37]: The capitalisation on this name is odd. Same comments as before though.

File: src/Relation/Binary/Domain/Definitions.agda [hunk 25]
```diff
@@ -0,0 +1,38 @@
+------------------------------------------------------------------------
+-- The Agda standard library
+--
+-- Definitions for domain theory
+------------------------------------------------------------------------
+
+
+
+
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Definitions.agda:9]: Too much whitespace.

File: src/Relation/Binary/Domain/Structures.agda [hunk 26]
```diff
@@ -0,0 +1,79 @@
...
+open import Level using (Level; _⊔_; suc)
+open import Relation.Binary.Bundles using (Poset)
+open import Relation.Binary.Domain.Definitions
+
+private variable
+  a b c ℓ ℓ₁ ℓ₂ : Level
+  A B : Set a
+
+
+module _ {c ℓ₁ ℓ₂ : Level} (P : Poset c ℓ₁ ℓ₂) where
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Structures.agda:22]: `c ℓ₁ ℓ₂` already exist as variables.

File: src/Relation/Binary/Domain/Bundles.agda [hunk 27]
```diff
@@ -0,0 +1,63 @@
...
+
+open import Level using (Level; _⊔_; suc)
+open import Relation.Binary.Bundles using (Poset)
+open import Relation.Binary.Domain.Structures
+open import Relation.Binary.Domain.Definitions
+
+private
+  variable
+    o ℓ e o' ℓ' e' ℓ₂ : Level
+    Ix A B : Set o
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Bundles.agda:19]: These variables aren't used anywhere, but there are lots of values that could be variables in this file.

File: src/Relation/Binary/Domain/Bundles.agda [hunk 28]
```diff
@@ -0,0 +1,63 @@
...
+
+------------------------------------------------------------------------
+-- Directed Complete Partial Orders
+------------------------------------------------------------------------
+
+record DirectedFamily {c ℓ₁ ℓ₂ : Level} {P : Poset c ℓ₁ ℓ₂} {B : Set c} (f : B → Poset.Carrier P) : Set (c ⊔ ℓ₁ ⊔ ℓ₂) where
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Bundles.agda:25]: There's a very weird mismatch between `DirectedFamily` and `DirectedCompletePartialOrder`. One has a poset as an argument, and one as a field. `DirectedFamily` doesn't seem to any different from `IsDirectedFamily`?

File: src/Relation/Binary/Domain/Definitions.agda [hunk 29]
```diff
@@ -0,0 +1,38 @@
...
+semidirected : {A : Set a} → Rel A ℓ → (B : Set b) → (B → A) → Set _
+semidirected _≤_ B f = ∀ i j → ∃[ k ] (f i ≤ f k × f j ≤ f k)
+
+------------------------------------------------------------------------
+-- Least upper bounds
+------------------------------------------------------------------------
+
+leastupperbound  : {A : Set a} → Rel A ℓ → (B : Set b) → (B → A) → A → Set _
+leastupperbound _≤_ B f lub = (∀ i → f i ≤ lub) × (∀ y → (∀ i → f i ≤ y) → lub ≤ y)
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Definitions.agda:38]: This feels like this could be two separate definitions? `UpperBound` and `LeastBound`?

File: src/Relation/Binary/Domain/Structures.agda [hunk 30]
```diff
@@ -0,0 +1,79 @@
...
+    field
+      isLeastUpperBound : leastupperbound _≤_ B f lub
+
+    isUpperBound : ∀ i → f i ≤ lub
+    isUpperBound = proj₁ isLeastUpperBound
+
+    isLeast : ∀ y → (∀ i → f i ≤ y) → lub ≤ y
+    isLeast = proj₂ isLeastUpperBound
+
+  record IsDirectedFamily {b : Level} {B : Set b} (f : B → Carrier)
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Structures.agda:36]: Use of variables

File: src/Relation/Binary/Domain/Structures.agda [hunk 31]
```diff
@@ -0,0 +1,79 @@
...
+private variable
+  a b c ℓ ℓ₁ ℓ₂ : Level
+  A B : Set a
+
+
+module _ {c ℓ₁ ℓ₂ : Level} (P : Poset c ℓ₁ ℓ₂) where
+  open Poset P
+
+  record IsLub {b : Level} {B : Set b} (f : B → Carrier)
+               (lub : Carrier) : Set (b ⊔ c ⊔ ℓ₁ ⊔ ℓ₂) where
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Structures.agda:26]: What's the point of this record if it just wraps `leastupperbound`?

File: src/Relation/Binary/Domain/Structures.agda [hunk 32]
```diff
@@ -0,0 +1,79 @@
...
+        → Carrier
+      ⋁-isLub : ∀ {B : Set c}
+        → (f : B → Carrier)
+        → (dir : IsDirectedFamily f)
+        → IsLub f (⋁ f dir)
+
+    module _ {B : Set c} {f : B → Carrier} {dir : IsDirectedFamily f} where
+      open IsLub (⋁-isLub f dir)
+        renaming (isUpperBound to ⋁-≤; isLeast to ⋁-least)
+        public
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Structures.agda:57]: `public` should before `renaming` according to the style guide

File: src/Relation/Binary/Domain/Structures.agda [hunk 33]
```diff
@@ -0,0 +1,79 @@
...
+    isLeast = proj₂ isLeastUpperBound
+
+  record IsDirectedFamily {b : Level} {B : Set b} (f : B → Carrier)
+    : Set (b ⊔ c ⊔ ℓ₁ ⊔ ℓ₂) where
+    no-eta-equality
+    field
+      elt           : B
+      isSemidirected : semidirected _≤_ B f
+
+  record IsDirectedCompletePartialOrder : Set (suc (c ⊔ ℓ₁ ⊔ ℓ₂)) where
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Structures.agda:43]: These levels look deeply suspicious. It feels like the `c` level shouldn't exposed in the interface. I know you'll run into level problems in the type of the record if you internalise it so I'm not sure what the solution is, but it feels like a strong code smell.

File: src/Relation/Binary/Domain/Structures.agda [hunk 34]
```diff
@@ -0,0 +1,79 @@
...
+    isUpperBound = proj₁ isLeastUpperBound
+
+    isLeast : ∀ y → (∀ i → f i ≤ y) → lub ≤ y
+    isLeast = proj₂ isLeastUpperBound
+
+  record IsDirectedFamily {b : Level} {B : Set b} (f : B → Carrier)
+    : Set (b ⊔ c ⊔ ℓ₁ ⊔ ℓ₂) where
+    no-eta-equality
+    field
+      elt           : B
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Domain/Structures.agda:40]: Is this simply trying to encode the fact that `B` is non-empty? Wouldn't be better to define and use a `NonEmpty` type (probably defining it in `Relation.Nullary` if it is not already there)

**Review by MatthewDaggitt — CHANGES_REQUESTED** [review]

**Comment by JacquesCarette** [comment]
I've asked @e-mniang to take over this PR.

**Comment by jamesmckinna** [comment]
> I've asked @e-mniang to take over this PR.

And so... I'll come back to review once they've had a chance to grok the details, and @MatthewDaggitt 's initial feedback... and I've recovered some bandwidth after the latest round of comments on #2795 and #2769 ;-)

**Comment by JacquesCarette** [comment]
Looks like there is no bandwidth from anyone to push this through -- closing.
